US06706699B2
Step 1: (Ethoxy-phenyl-phosphinoyl)-hydroxy-acetic Acid Ethyl Ester
To a solution of ethylphenylphosphinate (0.5 g, 2.94 mmol) in 5 mL of anhydrous toluene and anhydrous triethylamine (0.17 mL, 1.18 mmol) under argon was added 0.68 g (2.94 mmol) of a 50% (w/w) glyoxylic acid solution in toluene. The mixture was stirred for 16 h at room temperature, at which point the solvent was removed in vacuo. The crude material was purified by flash chromatography on silica gel. Elution with 100% ethylacetate afforded 383 mg (48%) of the desired compound.

reactant | ethylphenylphosphinate | 2.94 mmol, 0.5 g | C(C)P([O-])(=O)C1=CC=CC=C1
reactant | triethylamine | 1.18 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (Ethoxy-phenyl-phosphinoyl)-hydroxy-acetic Acid Ethyl Ester | 383 mg, 48% | C(C)OC(C(O)P(=O)(C1=CC=CC=C1)OCC)=O | C12H17O5P
